US07642264B2
5-{1-[4-(3,4-Dichloro-phenyl)-6-methyl-pyrimidin-2-yl]-1H-imidazol-4-yl}-pyrimidin-2-ylamine
The title compound was prepared from 2-(4-bromo-imidazol-1-yl)-4-(3,4-dichlorophenyl)-6-methyl-pyrimidine (example E.61) (0.16 g, 0.42 mmol) and commercially available 2-amino-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidine (0.12 g, 0.54 mmol) according to the general procedure VI. Obtained as a yellow solid (0.043 g, 26%). MS (ISP) 398.1 [(M+H)+]; mp 255.5° C.

reactant | 2-(4-bromo-imidazol-1-yl)-4-(3,4-dichlorophenyl)-6-methyl-pyrimidine | 0.42 mmol, 0.16 g | BrC=1N=CN(C1)C1=NC(=CC(=N1)C1=CC(=C(C=C1)Cl)Cl)C | C14H9BrCl2N4
reactant | 2-amino-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidine | 0.54 mmol, 0.12 g | NC1=NC=C(C=N1)B1OC(C(O1)(C)C)(C)C | C10H16BN3O2
product | 5-{1-[4-(3,4-Dichloro-phenyl)-6-methyl-pyrimidin-2-yl]-1H-imidazol-4-yl}-pyrimidin-2-ylamine | ClC=1C=C(C=CC1Cl)C1=NC(=NC(=C1)C)N1C=NC(=C1)C=1C=NC(=NC1)N | C18H13Cl2N7
